2142-07-11 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2142-7-10**] 09:31 PM
 EKG - At [**2142-7-10**] 10:15 PM
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2142-7-10**] 10:15 PM
   Heparin Sodium - [**2142-7-10**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-11**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 63 (54 - 82) bpm
   BP: 100/55(66) {99/55(66) - 123/86(91)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                     17 mL
                                                                     64 mL
   PO:
             TF:
   IVF:
                                                                     17 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                  1,300 mL
   Urine:
                                                                    615 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -723 mL
                                                                 -1,236 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   GENERAL: WD/WN elderly man in NAD, comfortable. Oriented x3. Mood,
   affect appropriate.
   HEENT: NC/AT. PERRL/EOMI. Sclera anicteric. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma. Dry MM, OP
   clear.
   NECK: Supple with JVD to the angle of the jaw.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR,
   normal S1-S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: NABS, soft/NT/ND. No HSM or tenderness.
   EXTREMITIES: WWP, [**1-26**]+ pitting edema to shins bilaterally.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Radial 1+ DP trace PT trace
   Left: Radial 1+ DP trace PT trace
   Labs / Radiology
   138 K/uL
   13.1 g/dL
   94 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.7 mEq/L
   19 mg/dL
   104 mEq/L
   145 mEq/L
   40.3 %
   6.4 K/uL
        [image002.jpg]
                             [**2142-7-10**]  09:13 PM
                             [**2142-7-11**]  04:19 AM
   WBC
   6.2
   6.4
   Hct
   42.1
   40.3
   Plt
   160
   138
   Cr
   1.2
   1.3
   TropT
   0.02
   0.02
   Glucose
   111
   94
   Other labs: PT / PTT / INR:14.5/150.0/1.3, CK / CKMB /
   Troponin-T:76//0.02, ALT / AST:24/31, Alk Phos / T Bili:63/0.9,
   Differential-Neuts:66.0 %, Band:0.0 %, Lymph:26.0 %, Mono:4.0 %,
   Eos:2.0 %, Albumin:3.2 g/dL, LDH:324 IU/L, Ca++:9.3 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   86-yo man with no PMHx who presented to MWMC w/ acute systolic CHF and
   was found to have extensive severe CAD on cath, transferred to [**Hospital1 5**]
   for evaluation for possible CABG.
   .
   # CORONARIES: Pt w/ extensive severe CAD on cardiac catheterization
   films from MWMC, reviewed with Cardiology fellow.  Left main and 3vd.
   Ruled-out for MI at MWMC, CK negative and trop 0.02 on arrival here.
   - cont ASA, statin
   - start heparin gtt
   - holding Plavix for possible CABG
   - holding BB and ACEi given hypotension in ambulance
   - repeat set of CEs in AM, repeat ECG in AM
   - f/u lipid panel and Hgb A1c
   - cardiac surgery consult, involvement greatly appreciated
   - may need viability study
   .
   # PUMP: Pt admitted to MWMC w/ acute systolic CHF. Diuresed well w/
   Lasix, but continues to be fluid overloaded w/ peripheral edema and
   pleural effusions.
   - I/O even to -500cc
   - cont gentle diuresis in setting of hypotension in ambulance, plan for
   40mg IV lasix
   .
   # RHYTHM: Pt in NSR, no h/o arrhythmia.
   - cont to monitor on telemetry
   - holding BB given hypotension in ambulance
   .
   # ARF: Cr 1.3 increased from baseline. Likely in the setting of
   diuresis.
   - cont to monitor
   - avoid nephrotoxinis and renally dose meds.
   FEN: NPO for possible CABG, replete lytes PRN
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen with Colace, Senna, Bisacodyl
   FULL CODE
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-7-10**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   7. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**7-10**] @ 2113
   2. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever  Order date: [**7-10**] @
   2113
   8. Heparin IV Sliding Scale
   Order date: [**7-10**] @ 2113
   3. Aspirin 325 mg PO DAILY  Order date: [**7-10**] @ 2113
   4. Atorvastatin 80 mg PO DAILY  Order date: [**7-10**] @ 2113
   10. Senna 1 TAB PO BID:PRN Constipation  Order date: [**7-10**] @ 2113
   5. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  Order date: [**7-10**] @
   2113
   6. Docusate Sodium 100 mg PO BID  Order date: [**7-10**] @ 2113
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 284**].
   I would add the following remarks:
   History
   86 yr old transferred from [**Hospital1 **] after presenting with CHF and
   found to have EF 20% and severe left main and 3 VD.
   SBP decr transiently in ambulance to 90 and admitted to CCU.
   Physical Examination
   no distress
   no rales
   Medical Decision Making
   Awaiting CABG tomorrow on iv heparin.
   IABP if destabilizes./
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2142-7-11**] 16:02 ------